US07214802B2
A solution of 7.9 g (36.5 mmol) of 1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanol in 100 mL THF was stirred at rt over 24 g of activated MnO2 for 23 h. The mixture was filtered through Celite and concentrated to give 1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanone (7.71 g). ESI MS m/z 215 [C13H14N2O+H]+.

reactant | 1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanol | 36.5 mmol, 7.9 g | C(C)C1=C(C=NN1C1=CC=CC=C1)C(C)O | C13H16N2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 24 g | O=[Mn]=O
product | 1-(5-ethyl-1-phenyl-1H-pyrazol-4-yl)-ethanone | 7.71 g | C(C)C1=C(C=NN1C1=CC=CC=C1)C(C)=O | C13H14N2O
